US08476286B2
Synthesis of 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1-{3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzyl}1H-quinazolin-2-one
To a solution of 640 mg (1.51 mmol) of 1-(3-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one in acetone (20 ml) is added potassium carbonate (2.08 g, 15.1 mmol) followed by 2-(2-bromo-ethoxy)-tetrahydropyran (475 μl, 3.02 mmol). The reaction mixture is heated at reflux for 2 days. After cooling to room temperature, the reaction mixture is quenched with water and extracted with EtOAc (2×20 ml). The combined organic layers are washed with brine, dried (Na2SO4), filtered and evaporated in vacuo to provide a yellow oil which is purified by flash chromatography on silica gel using dichloromethane/t-butyl methyl ether (1:1) to provide the title compound as a yellow oil. Yield: 830 mg (71%).

reactant | 1-(3-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | 1.51 mmol, 640 mg | OC=1C=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C27H24N2O3
reactant | potassium carbonate | 15.1 mmol, 2.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromo-ethoxy)-tetrahydropyran | 3.02 mmol, 475 μl | BrCCOC1OCCCC1 | C7H13BrO2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1-{3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzyl}1H-quinazolin-2-one | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC1=CC(=CC=C1)OCCOC1OCCCC1)=O | C34H36N2O5
